US09023842B2
2-[(4S)-6-(4-Chlorophenyl)-1-methyl-8-(methyloxy)-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl]-N-ethylacetamide
To a solution of [(4S)-6-(4-Chlorophenyl)-1-methyl-8-(methyloxy)-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl]acetic acid (for a preparation see Intermediate 1) (16.0 g, 40 mmol) in THF at RT was added DIEA (14 mL, 80 mmol) followed by HATU (30.4 g, 80 mmol). The reaction mixture was stirred for 3 h at this temperature and ethylamine (40 mL, 2M in THF, 80 mmol) was added. The mixture was stirred for 48 h before being concentrated under reduced pressure. The crude material was suspended in water and extracted with DCM. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. The crude solid was purified by chromatography on SiO2 (DCM/MeOH 95/5) and the resulting solid recrystallised in MeCN. The solid was then dissolved in DCM and precipitated with i-Pr2O to give the title compound (8 g, 47% yield) as a white solid.

reactant | [(4S)-6-(4-Chlorophenyl)-1-methyl-8-(methyloxy)-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl]acetic acid | ClC1=CC=C(C=C1)C1=N[C@H](C=2N(C3=C1C=C(C=C3)OC)C(=NN2)C)CC(=O)O | C20H17ClN4O3
reactant | DIEA | 80 mmol, 14 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 80 mmol, 30.4 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | ethylamine | 80 mmol, 2M, 40 mL | C(C)N | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | 2-[(4S)-6-(4-Chlorophenyl)-1-methyl-8-(methyloxy)-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl]-N-ethylacetamide | 8 g, 47% yield | ClC1=CC=C(C=C1)C1=N[C@H](C=2N(C3=C1C=C(C=C3)OC)C(=NN2)C)CC(=O)NCC | C22H22ClN5O2
